US05962458
7-Benzyloxy-4-(2-fluoro-5-methoxycarbonyloxy-4-methylanilino)quinazoline hydrochloride (1.53 g, 3.25 mmol) and 10% palladium-on-charcoal catalyst (180 mg) in a mixture of methanol (75 ml), DMF (6 ml) and trichloromethane (30 ml) was stirred under hydrogen at 1.5 atmospheres pressure for 45 minutes. The catalyst was removed by filtration through diatomaceous earth and the solvent removed from the filtrate by evaporation. The residue was triturated with ether, the resulting solid was collected by filtration and dried under vacuum to give 4-(2-fluoro-5-methoxycarbonyloxy-4-methylanilino)-7-hydroxyquinazoline hydrochloride (1.23 g, 84%) as an orange solid. m.p. 205-210° C.

reactant | 7-Benzyloxy-4-(2-fluoro-5-methoxycarbonyloxy-4-methylanilino)quinazoline hydrochloride | 3.25 mmol, 1.53 g | Cl.C(C1=CC=CC=C1)OC1=CC=C2C(=NC=NC2=C1)NC1=C(C=C(C(=C1)OC(=O)OC)C)F
reactant | DMF | 6 ml | CN(C)C=O | C3H7NO
reactant | trichloromethane | 30 ml | ClC(Cl)Cl | CHCl3
catalyst | palladium-on-charcoal | 180 mg | [Pd] | Pd
solvent | methanol | 75 ml | CO | CH4O
product | 4-(2-fluoro-5-methoxycarbonyloxy-4-methylanilino)-7-hydroxyquinazoline hydrochloride | 1.23 g, 84% | Cl.FC1=C(NC2=NC=NC3=CC(=CC=C23)O)C=C(C(=C1)C)OC(=O)OC | InChI=1S/C17H14FN3O4.ClH/c1-9-5-12(18)14(7-15(9)25-17(23)24-2)21-16-11-4-3-10(22)6-13(11)19-8-20-16;/h3-8,22H,1-2H3,(H,19,20,21);1H
